US05245035
A solution of 2-ethyl-4-quinolone (6.9 g; 0.04 mole), (prepared using a similar procedure to that described in Org. Syn., Coll., Vol. III, p. 374 and p. 593 from aniline and ethyl propionylacetate) in (NMP) (50 ml) was added over 30 minutes to a stirred suspension of sodium hydride (1.6 g of a 60% dispersion in mineral oil; 0.04 mole) in NMP (50 ml) and the mixture stirred for 30 minutes. A solution of 2-(4-bromomethylphenyl)-5,5-dimethyl-1,3,2-dioxaborinane in cyclohexane [previously prepared by heating a mixture of 4-methylphenylboronic acid (6.8 g) and 2,2-dimethylpropan-1,3-diol (5.2 g) in cyclohexane (150 ml) at reflux with azeotropic removal of water, followed by the addition of N-bromosuccinimide (8.9 g) and azo(bisisobutyronitrile) (0.2 g), heating the mixture at reflux for 3 hours, and removing suspended succinimide by filtration] was added and the mixture was heated at 60°-70° C. for 18 hours. The mixture was allowed to cool and acetic acid was then added until the mixture was at pH 4, followed by water (200 ml) and ethyl acetate (200 ml). The mixture was stirred for 20 minutes and then the organic phase was separated, washed with water and dried (MgSO4). Volatile material was removed by evaporation to give a crystalline solid. The solid was dissolved in ethyl acetate (150 ml), concentrated hydrochloric acid (3 ml) and water (3 ml) were added and the mixture was stirred for 18 hours. The resultant precipitate was collected by filtration, washed with ethyl acetate and dried to give 4-[(2-ethylquinolin-4-yloxy)methyl]phenylboronic acid hydrochloride (7 g) as a solid; NMR (d4 -methanol): 1.5(t,3H), 3.21(q,2H), 5.78(s,2H), 7.55(s,1H), 7.6-8.15(m,7H), 8.40(d,2H).

reactant | 2-ethyl-4-quinolone | 0.04 mole, 6.9 g | C(C)C1=NC2=CC=CC=C2C(C1)=O | C11H11NO
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | ethyl propionylacetate | C(CC)(=O)CC(=O)OCC | C7H12O3
reactant | sodium hydride | [H-].[Na+]
reactant | 2-(4-bromomethylphenyl)-5,5-dimethyl-1,3,2-dioxaborinane | BrCC1=CC=C(C=C1)B1OCC(CO1)(C)C | C12H16BBrO2
reactant | 4-methylphenylboronic acid | 6.8 g | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | 2,2-dimethylpropan-1,3-diol | 5.2 g | CC(CO)(CO)C | C5H12O2
reactant | N-bromosuccinimide | 8.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | NMP | 50 ml | CN1CCCC1=O | C5H9NO
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | cyclohexane | 150 ml | C1CCCCC1 | C6H12
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
catalyst | azo(bisisobutyronitrile) | 0.2 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | water | 3 ml | O | H2O
product | 4-[(2-ethylquinolin-4-yloxy)methyl]phenylboronic acid hydrochloride | 7 g | Cl.C(C)C1=NC2=CC=CC=C2C(=C1)OCC1=CC=C(C=C1)B(O)O | InChI=1S/C18H18BNO3.ClH/c1-2-15-11-18(16-5-3-4-6-17(16)20-15)23-12-13-7-9-14(10-8-13)19(21)22;/h3-11,21-22H,2,12H2,1H3;1H
